US06022870
Preparation of 1-Methyl-N-(2-phenoxyphenyl)hydrazinecarboxamide
2-Phenoxyaniline (5.57 g) and triethylamine (4.2 mL) were dissolved in 100 mL of 1,2-dichloroethane. Triphosgene (Cl3COC(=O)OCCl3, 2.97 g) was added and a precipitate formed. The mixture was heated to reflux and the solid redissolved. After 5.5 h, the solution was cooled and 1.6 mL of methyl hydrazine was added and a new precipitate formed. The mixture was stirred at room temperature overnight. The solvent was removed and the residue was partitioned between ethyl acetate and 1N aqueous HCl solution. The organic phases were dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography (1:1 hexane:ethyl acetate as eluant). The second-least polar component was collected, the eluant was removed under reduced pressure, and the residue was triturated with hexane to afford 3.86 g (50%) of the title compound of Step A, m.p. 117-119° C.

reactant | 2-Phenoxyaniline | 5.57 g | O(C1=CC=CC=C1)C1=C(N)C=CC=C1 | C12H11NO
reactant | triethylamine | 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | Triphosgene | 2.97 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | methyl hydrazine | 1.6 mL | CNN | CH6N2
solvent | 1,2-dichloroethane | 100 mL | ClCCCl | C2H4Cl2
product | 1-Methyl-N-(2-phenoxyphenyl)hydrazinecarboxamide | 3.86 g, 50% | CN(N)C(=O)NC1=C(C=CC=C1)OC1=CC=CC=C1 | C14H15N3O2
